US08236813B2
(12) 5-Chloro-4-hydroxy-6-methylnicotinic acid
Commercially available 4-hydroxy-6-methyl-nicotinic acid (300 mg) was suspended in 3 ml of acetonitrile, and N-chlorosuccinimide (380 mg) was then added to the suspension. The resulting mixture was stirred at room temperature for 30 minutes. Thereafter, the reaction solution was heated under reflux for 45 minutes. After the disappearance of the materials had been confirmed, the reaction solution was cooled on ice, and the precipitate was then collected by filtration, so as to obtain the title compound (324 mg) as a solid.

reactant | 4-hydroxy-6-methyl-nicotinic acid | 300 mg | OC1=CC(=NC=C1C(=O)O)C | C7H7NO3
reactant | N-chlorosuccinimide | 380 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 5-Chloro-4-hydroxy-6-methylnicotinic acid | 324 mg | ClC=1C(=NC=C(C(=O)O)C1O)C | C7H6ClNO3
